### PR TITLE
Update Kleisli.agda

### PR DESCRIPTION
**Pull request by tetrapharmakon**
A morphism `f : A => F B` in the Kleisli category of a monad `M` on `C` is an isomorphism if and only if its Kleisli extension `f* : F A => F B` is an isomorphism in `C`

### CODE REVIEW

File: src/Categories/Adjoint/Construction/Kleisli.agda [hunk 1]
```diff
@@ -105,3 +107,54 @@ Free⊣Forgetful = record
...
+    trihom {X} {Y} {Z} {W} {f} {g} {h} = begin
+      F₁ (h ∘ g ∘ f)     ≈⟨ homomorphism ⟩
+      F₁ h ∘ F₁ (g ∘ f)  ≈⟨ refl⟩∘⟨ homomorphism ⟩
+      F₁ h ∘ F₁ g ∘ F₁ f ∎
+
+  Klf-iso⇒f-iso : ∀ {A B : Obj} → (f : A ⇒ F₀ B) → (g : B ⇒ F₀ A) → Iso C (kl-extension f) (kl-extension g) → Iso (Kleisli M) g f
+  Klf-iso⇒f-iso {A} {B} f g record { isoˡ = isoˡ ; isoʳ = isoʳ } = record
+    { isoˡ = begin
+      (M.μ.η B ∘ F₁ f) ∘ g                              ≈⟨ introʳ (Monad.identityʳ M) ⟩∘⟨refl ⟩
+      ((M.μ.η B ∘ F₁ f) ∘ (M.μ.η A ∘ M.η.η (F₀ A))) ∘ g ≈⟨ solve C ⟩
```
Comment (JacquesCarette) [inline src/Categories/Adjoint/Construction/Kleisli.agda:148]: Ah, no, we don't want to use tactics internally to the library itself. It really messes up the hierarchy, and has a huge danger of causing (future) cycles.

By all means, use `solve` to figure out the proof, but then please insert it here and in the other places below.

File: src/Categories/Adjoint/Construction/Kleisli.agda [hunk 2]
```diff
@@ -105,3 +107,54 @@ Free⊣Forgetful = record
     M.μ.η B ∘ M.η.η (F₀ B)                            ≈⟨ M.identityʳ ⟩
     C.id                                              ∎
   }
+
+
+module KleisliExtension where
```
Comment (JacquesCarette) [inline src/Categories/Adjoint/Construction/Kleisli.agda:112]: As you use `M.μ` a lot below, maybe open it locally to `KleisliExtension` to make things shorter?

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

**Comment by JacquesCarette** [comment]
Did you see the 2 comments that I left on this PR?

**Review by JacquesCarette — APPROVED** [review]
I've implemented the needed changes myself.
